US08110585B2
ethyl 2-(2,1-benzisothiazol-4-yl)cyclopropanecarboxylate
Under nitrogen atmosphere, to a suspension of sodium hydride (60%, 1.08 g, 24.7 mmol) in dimethyl sulfoxide (100 mL) was added a solution of trimethylsulfoxonium iodide (5.43 g, 24.7 mmol) in dimethyl sulfoxide (100 mL) at 0° C., and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added a solution of ethyl(2E)-3-(2,1-benzisothiazol-4-yl)acrylate (4.80 g, 20.6 mmol) in dimethyl sulfoxide (200 mL) at 0° C., and the mixture was stirred at room temperature for 12 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80) to give the title compound (2.70 g, yield 53%).

reactant | sodium hydride | 24.7 mmol, 1.08 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 24.7 mmol, 5.43 g | [I-].C[S+](=O)(C)C
reactant | ethyl(2E)-3-(2,1-benzisothiazol-4-yl)acrylate | 20.6 mmol, 4.80 g | N=1SC=C2C1C=CC=C2/C=C/C(=O)OCC | C12H11NO2S
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 200 mL | CS(=O)C | C2H6OS
product | ethyl 2-(2,1-benzisothiazol-4-yl)cyclopropanecarboxylate | 2.70 g, yield 53% | N=1SC=C2C1C=CC=C2C2C(C2)C(=O)OCC | C13H13NO2S
